US07544835B2
3-Bromophenethyl alcohol was dissolved in 110 ml of N,N-dimethylformamide, and 16 ml of t-butyl chlorodiphenyl silane and 8.3 g of imidazole were added. After stirring was continued at room temperature overnight, the solution was diluted with ethyl acetate, and washed successively with 1N hydrochloric acid and saturated brine. After drying the organic layer over anhydrous magnesium sulfate, the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 22.1 g of [(3-bromophenethyl)oxy] (t-butyl)diphenyl silane in the 4:1 hexane-ethyl acetate fraction. Then, the obtained 22.1 g of [(3-bromophenethyl)oxy] (t-butyl) diphenyl silane was dissolved in 200 ml of tetrahydrofuran, and the mixture was cooled to −78° C. under nitrogen atmosphere. 37 ml of Butyl lithium (1.52 M solution in hexane) was added thereto, and the mixture was stirred for 30 minutes, and then 10 ml of 4-formylmorpholine was added. After stirring was continued at −78° C. for 1 hour, 1N-hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 17 g of the title compound in the 4:1 hexane-ethyl acetate fraction.

reactant | 3-Bromophenethyl alcohol | BrC=1C=C(CCO)C=CC1 | C8H9BrO
reactant | t-butyl chlorodiphenyl silane | 16 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 8.3 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(3-bromophenethyl)oxy] (t-butyl)diphenyl silane | 22.1 g | BrC=1C=C(CCO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=CC1 | C24H27BrOSi
